US08669249B2
Methyl 2-(5-fluoro-4-formyl-2-nitrophenoxy)propanoate (328)
Using 2-fluoro-4-hydroxy-5-nitrobenzaldehyde as the phenol and methyl-2-bromopropanoate as the alkylating agent in the general procedure for alkylation of substituted-2-nitrophenols gives the title compound as a white solid: ESI-MS: m/z 272.1 (M+H)+.

reactant | 2-fluoro-4-hydroxy-5-nitrobenzaldehyde | FC1=C(C=O)C=C(C(=C1)O)[N+](=O)[O-] | C7H4FNO4
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | methyl-2-bromopropanoate | COC(C(C)Br)=O | C4H7BrO2
product | Methyl 2-(5-fluoro-4-formyl-2-nitrophenoxy)propanoate | FC=1C(=CC(=C(OC(C(=O)OC)C)C1)[N+](=O)[O-])C=O | C11H10FNO6
